US04940710
7-[3-(2,5-Dichloro-3-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 3.1 g portion of 2-(2,5-dichloro-3-thienyl)piperazine was dissolved in 8 ml of pyridine, 880 mg of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was added and the mixture was heated, under argon, in a pressure bottle, at 120°-130° C. for 18 hours. After cooling, the solid was collected, washed with ethanol, dried and recrystallized from dimethylformamide, giving 171 mg of the desired product, mp 254°-256° C. (dec.).

reactant | 2-(2,5-dichloro-3-thienyl)piperazine | ClC=1SC(=CC1C1NCCNC1)Cl | C8H10Cl2N2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 880 mg | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 7-[3-(2,5-Dichloro-3-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 171 mg | ClC=1SC(=CC1C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F)Cl | C20H18Cl2FN3O3S
